US05641846
Preparation of p-(6-bromohexoxy)azobenzene
A mixture of 454 g. (1.86 mol) of dibromohexane, 128.5 g of potassium carbonate and about 0.2 g of potassium iodide in 460 ml of acetone is heated to the boil. A solution of 36.9 g. (0.186 mol) of p-hydroxyazobenzene in 330 ml of acetone is then added in several portions. In order to prevent delays in boiling, the mixture is stirred constantly. After about 4.5 hours, the reaction is terminated, the still-hot solution is filtered, and a little dye is washed out of the filtered-off inorganic salts using a little acetone. The acetone is removed from the solution under slightly reduced pressure. The excess dibromohexane is subsequently removed in an oil-pump vacuum.

reactant | dibromohexane | 1.86 mol | BrC(CCCCC)Br | C6H12Br2
reactant | potassium carbonate | 128.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | about 0.2 g | [I-].[K+]
reactant | p-hydroxyazobenzene | 0.186 mol | OC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C12H10N2O
solvent | acetone | 460 ml | CC(=O)C | C3H6O
solvent | acetone | 330 ml | CC(=O)C | C3H6O
product | p-(6-bromohexoxy)azobenzene | BrCCCCCCOC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C18H21BrN2O
